US05506219
A. 1-Cyclopropyl-3-(4-fluorophenyl)-2-propen-1-one
A mixture of 4-fluorobenzaldehyde (9.30 g, 75.00 mmol, Aldrich) and cyclopropyl methyl ketone (6.30 g, 75.00 mmol) in absolute ethanol (100 ml) was treated with a solution of sodium ethoxide in ethanol (21% by weight solution; 2.79 ml, 7.50 mmol). After stirring for 2 hours at room temperature, additional 4-fluorobenzaldehyde was added (1.86 g, 15.00 mmol). The reaction mixture was stirred for 2 hours, concentrated to 1/3 volume and partitioned between 50% saturated NH4Cl/EtOAc (100 ml/250 ml). The layers were separated and the aqueous portion was extracted with EtOAc (twice) and the combined organics were washed with H2O (twice) and brine, dried (Na2SO4) and concentrated. The yellow oily residue was distilled (Vigroux column, bp 115°-120° C., 0.6 mm Hg) to afford the title compound as a colorless oil (12.8 g, 89.7%).

reactant | 4-fluorobenzaldehyde | 75.00 mmol, 9.30 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | cyclopropyl methyl ketone | 75.00 mmol, 6.30 g | CC(=O)C1CC1 | C5H8O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 7.50 mmol, 2.79 ml | C(C)O | C2H6O
product | 1-Cyclopropyl-3-(4-fluorophenyl)-2-propen-1-one | 12.8 g, 89.7% | C1(CC1)C(C=CC1=CC=C(C=C1)F)=O | C12H11FO
